US06034272
N-[4-[(Aminothioxomethyl)hydrazono]-4-phenylbutyl]-N-(1-methylethyl)acetamide
Thiosemicarbazide (6.1901 g, 67.9 mmol) was added to a solution of N-isopropyl-N-(4-oxo-4-phenyl-butyl)-acetamide (11.20 g, 45.3 mmol), prepared in the previous step, in 160 ml of methanol plus 12.2 ml of 1 N HCl, plus 12.2 ml of water and the reaction stirred at room temperature for 22 hours (overnight). The reaction was concentrated under reduced pressure to remove the methanol. The residue was partitioned between methylene chloride and water. The organic layer was separated, washed five times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 14.54 g of a yellow foam. The foam was crystallized from ethyl acetate to give 10.28 g (71%) of the title compound as a white solid, mp 141-147° C.

reactant | Thiosemicarbazide | 67.9 mmol, 6.1901 g | NNC(=S)N | CH5N3S
reactant | N-isopropyl-N-(4-oxo-4-phenyl-butyl)-acetamide | 45.3 mmol, 11.20 g | C(C)(C)N(C(C)=O)CCCC(C1=CC=CC=C1)=O | C15H21NO2
reactant | HCl | 1 N, 12.2 ml | Cl | ClH
reactant | water | 12.2 ml | O | H2O
solvent | methanol | 160 ml | CO | CH4O
product | N-[4-[(Aminothioxomethyl)hydrazono]-4-phenylbutyl]-N-(1-methylethyl)acetamide | 14.54 g | NC(=S)NN=C(CCCN(C(C)=O)C(C)C)C1=CC=CC=C1 | C16H24N4OS
